US04795486
A mixture of 4.6 g of 1-ethyl-3,5-dibromopyrazin-2-one, 9.6 ml of dioxane and 6.4 ml of 30% ammonia is stirred at 20°-25° C. for 15 hours. The product is filtered off and washed with alcohol and ether to give 1.3 g of 1-ethyl-3-amino-5-bromo-pyrazin-2-one with a melting point of 227°-230° C.

reactant | 1-ethyl-3,5-dibromopyrazin-2-one | 4.6 g | C(C)N1C(C(=NC(=C1)Br)Br)=O | C6H6Br2N2O
reactant | ammonia | 6.4 ml | N | H3N
solvent | dioxane | 9.6 ml | O1CCOCC1 | C4H8O2
product | 1-ethyl-3-amino-5-bromo-pyrazin-2-one | 1.3 g | C(C)N1C(C(=NC(=C1)Br)N)=O | C6H8BrN3O
